simulator lang=spectre
global 0

ahdl_include "./dut/dac_restore_7bit_clocked.va"

Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 delay=0.35n period=1n width=0.35n rise=20p fall=20p
Vrst (rst 0) vsource type=pwl wave=[0 0 3.15n 0 3.20n 0.9 4.15n 0.9 4.20n 0 5.8n 0]
Vd0 (d0 0) vsource type=pwl wave=[0 0.9 1.0n 0.9 1.05n 0.9 2.0n 0.9 2.05n 0 3.0n 0 3.05n 0 4.0n 0 4.05n 0 5.0n 0 5.05n 0.9 5.8n 0.9]
Vd1 (d1 0) vsource type=pwl wave=[0 0 1.0n 0 1.05n 0.9 2.0n 0.9 2.05n 0 3.0n 0 3.05n 0.9 4.0n 0.9 4.05n 0.9 5.0n 0.9 5.05n 0.9 5.8n 0.9]
Vd2 (d2 0) vsource type=pwl wave=[0 0 1.0n 0 1.05n 0.9 2.0n 0.9 2.05n 0 3.0n 0 3.05n 0 4.0n 0 4.05n 0.9 5.0n 0.9 5.05n 0.9 5.8n 0.9]
Vd3 (d3 0) vsource type=pwl wave=[0 0 1.0n 0 1.05n 0.9 2.0n 0.9 2.05n 0 3.0n 0 3.05n 0 4.0n 0 4.05n 0 5.0n 0 5.05n 0.9 5.8n 0.9]
Vd4 (d4 0) vsource type=pwl wave=[0 0 1.0n 0 1.05n 0.9 2.0n 0.9 2.05n 0.9 3.0n 0.9 3.05n 0.9 4.0n 0.9 4.05n 0 5.0n 0 5.05n 0.9 5.8n 0.9]
Vd5 (d5 0) vsource type=pwl wave=[0 0 1.0n 0 1.05n 0 2.0n 0 2.05n 0.9 3.0n 0.9 3.05n 0.9 4.0n 0.9 4.05n 0 5.0n 0 5.05n 0.9 5.8n 0.9]
Vd6 (d6 0) vsource type=pwl wave=[0 0 1.0n 0 1.05n 0 2.0n 0 2.05n 0.9 3.0n 0.9 3.05n 0 4.0n 0 4.05n 0 5.0n 0 5.05n 0.9 5.8n 0.9]
XDUT (d6 d5 d4 d3 d2 d1 d0 clk rst vout) dac_restore_7bit_clocked

tran tran stop=5.8n maxstep=5p
save clk rst d6 d5 d4 d3 d2 d1 d0 vout
