simulator lang=spectre
global 0

ahdl_include "./dut/deadband_voltage.va"

Vin (sigin 0) vsource type=pwl wave=[0 -0.9 0.6n -0.9 0.65n -0.25 1.2n -0.25 1.25n 0.0 1.8n 0.0 1.85n 0.25 2.4n 0.25 2.45n 0.6 3.2n 0.6]
XDUT (sigin sigout) deadband_voltage

tran tran stop=3.0n maxstep=5p
save sigin sigout
